US04772600
2-(4-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]-pyridine-3-propanamide
Under a nitrogen atmosphere, oxalyl chloride (1.75 g, 0.0138 mole) was added dropwise, slowly, to a stirred and chilled (10° C.) suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid (4.0 g, 0.0133 mole) in anhydrous dimethylformamide (20 ml). A yellow solid formed. The suspension was stirred at room temperature for a few minutes and then a solution of N,N-dimethylphenylenediamine (2.0 g, 0.0147 mole) in dimethylformamide (25 ml) was added. The resulting purple solution was stirred at room temperature overnight under a nitrogen atmosphere. The reaction mixture was poured into 150 ml of water and stirred at room temperature. Triethylamine (2.0 ml) was added to pH 8 and a solid precipitated. The solid was collected by filtration, dissolved in hot isopropyl alcohol, treated with charcoal, and filtered. Addition of water and cooling to room temperature caused a solid to form. The solid was collected by filtration and rinsed with water to give 1.1 g of solid (20% yield). Drying under high vacuum at room temperature and then at 80° C. gave a grayish solid, mp 216°-218° C.

reactant | oxalyl chloride | 0.0138 mole, 1.75 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid | 0.0133 mole, 4.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)O | C15H12ClN3O2
reactant | N,N-dimethylphenylenediamine | 0.0147 mole, 2.0 g | CN(C1=C(C=CC=C1)N)C | C8H12N2
reactant | water | 150 ml | O | H2O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]-pyridine-3-propanamide | 1.1 g, 20% yield | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)NC1=CC=C(C=C1)N(C)C | C23H22ClN5O
